US03971819
A. ethyl-4-anilino-3-benzylamino-5-sulphamyl-benzoate
A mixture of 3-amino-4-anilino-5-sulphamyl-benzoic acid (2 g), benzyl bromide (3 g), and ethanol (50 ml 99.9%) was refluxed for 8 hours. After cooling, the ethyl-4-anilino-3-benzylamino-5-sulphamyl-benzoate crystallized and was collected by suction. After recrystallization from ethanol the melting point was 160°-161°C.

reactant | 3-amino-4-anilino-5-sulphamyl-benzoic acid | 2 g | NC=1C=C(C(=O)O)C=C(C1NC1=CC=CC=C1)S(N)(=O)=O | C13H13N3O4S
reactant | benzyl bromide | 3 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl-4-anilino-3-benzylamino-5-sulphamyl-benzoate | C(C)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)NC1=CC=CC=C1)NCC1=CC=CC=C1)=O | C22H23N3O4S
